US09388161B2
Trifluoroacetic acid (70 mL) was added to a solution of tert-butyl 5-cyclobutoxy-2,3-difluorophenylcarbamate (32 g, 107 mmol) in dichloromethane (320 mL), and the resulting solution stirred overnight at room temperature. The reaction solution was concentrated, and the residue was dissolved in dichloromethane (500 mL). A solution of HCl (4 M in 1,4-dioxane, 120 mL) was slowly added with stirring. The resulting mixture was concentrated and poured into ethyl ether (480 mL). The resulting precipitate was filtered, and the filter cake was dried under reduced pressure to afford 5-cyclobutoxy-2,3-difluoroaniline hydrogen chloride (21 g, 89%) as a light yellow solid. MS (ESI, pos. ion) m/z 200 [M+H]+.

reactant | Trifluoroacetic acid | 70 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 5-cyclobutoxy-2,3-difluorophenylcarbamate | 107 mmol, 32 g | C1(CCC1)OC=1C=C(C(=C(C1)NC(OC(C)(C)C)=O)F)F | C15H19F2NO3
reactant | dichloromethane | 320 mL | ClCCl | CH2Cl2
product | 5-cyclobutoxy-2,3-difluoroaniline hydrogen chloride | 21 g, 89% | Cl.C1(CCC1)OC=1C=C(C(=C(N)C1)F)F | InChI=1S/C10H11F2NO.ClH/c11-8-4-7(5-9(13)10(8)12)14-6-2-1-3-6;/h4-6H,1-3,13H2;1H
